US05478858
A solution of 4,7-dimethyl-5-benzimidazolylisothiocyanate (0.59 g) in CH2Cl2 (50 mL)/methanol (5 mL) is added dropwise over 20 minutes to ethylenediamine (1 mL) in solution in CH2Cl2 (150 mL). The mixture is stirred for 2 hours at room temperature. The resulting suspension is filtered and the solid is dried overnight in vacuo to afford N-(4,7-dimethyl-5-benzimidazolyl)-N'-2-aminoethylthiourea as a white solid.

reactant | 4,7-dimethyl-5-benzimidazolylisothiocyanate | 0.59 g | CC1=C(C=C(C=2N=CNC21)C)N=C=S | C10H9N3S
reactant | methanol | 5 mL | CO | CH4O
reactant | ethylenediamine | 1 mL | C(CN)N | C2H8N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N-(4,7-dimethyl-5-benzimidazolyl)-N'-2-aminoethylthiourea | CC1=C(C=C(C=2N=CNC21)C)NC(=S)NCCN | C12H17N5S
